US06482829B2
(rac)-8-(3,5-Bis-trifluoromethyl-benzoyl)-2-methyl-1-phenyl-3-(2-pyrrolidin-1-yl-ethyl)-1,3,8-triaza-spiro[4.5]decan-4-one
The title compound, MS: m/e=583.2 (M+H+), was prepared in accordance with the general method of example 99 from (rac)-8-(3,5-bis-trifluoromethyl-benzoyl)-2-methyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one 1-benzyl-piperidin-4-one and 1-(2-chloroethyl)pyrrolidine.

reactant | (rac)-8-(3,5-bis-trifluoromethyl-benzoyl)-2-methyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one 1-benzyl-piperidin-4-one | C(C1=CC=CC=C1)N1CCC(CC1)=O.FC(C=1C=C(C(=O)N2CCC3(C(NC(N3C3=CC=CC=C3)C)=O)CC2)C=C(C1)C(F)(F)F)(F)F
reactant | 1-(2-chloroethyl)pyrrolidine | ClCCN1CCCC1 | C6H12ClN
product | (rac)-8-(3,5-Bis-trifluoromethyl-benzoyl)-2-methyl-1-phenyl-3-(2-pyrrolidin-1-yl-ethyl)-1,3,8-triaza-spiro[4.5]decan-4-one | FC(C=1C=C(C(=O)N2CCC3(C(N(C(N3C3=CC=CC=C3)C)CCN3CCCC3)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C29H32F6N4O2
